US06211199B1
39.1 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(1-benzyl-1H-imidazol-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine
Prepare by the method of Example 37.2 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine (5 mmol) and 1-benzyl-1H-imidazol-2-ylmethylchloride hydrochloride to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl) pyrrolidine | 5 mmol | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H39F2N5O4
reactant | 1-benzyl-1H-imidazol-2-ylmethylchloride hydrochloride | Cl.C(C1=CC=CC=C1)N1C(=NC=C1)CCl
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(1-benzyl-1H-imidazol-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(3,4-difluorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCN2CCC(CC2)NC2=NC3=C(N2CC=2N(C=CN2)CC2=CC=CC=C2)C=CC=C3)C=C(C1OC)OC | C45H49F2N7O4
